US07737166B2
2-Cyclopropyl-7-fluoro-5-methyl-6-(thiophen-2-yl)-1,3-benzoxazole-4-carbonitrile (I-307)
6-Bromo-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-77) (200 mg, 0.68 mmol), 2-(tri-n-butylstannyl)thiophene (280 μl, 0.88 mmol) and 2,6-di-tert-butyl-p-cresol (2 grains) were dissolved in 1,4-dioxane (6 ml), and at room temperature, bis(triphenylphosphine)palladium(II) dichloride (48 mg, 0.07 mmol) was added. The solution was stirred under nitrogen atmosphere at 100° C. for 15 hours. After cooling to room temperature, the insoluble matter was separated by filtration with washing with ethyl acetate. The filtrate was washed with saturated brine, and dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, the solvent was evaporated away, and the resulting residue was purified by middle-pressure liquid chromatography (eluent, n-hexane:ethyl acetate=19:1, v/v) to obtain the entitled compound (194 mg, 96%) as a white solid.

reactant | 6-Bromo-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | 0.68 mmol, 200 mg | BrC=1C(=C2C(N=C(O2)C2CC2)=C(C1C)C#N)F | C12H8BrFN2O
reactant | 2-(tri-n-butylstannyl)thiophene | 0.88 mmol, 280 μl | C(CCC)[Sn](C=1SC=CC1)(CCCC)CCCC
reactant | 2,6-di-tert-butyl-p-cresol | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
solvent | 1,4-dioxane | 6 ml | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.07 mmol, 48 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-Cyclopropyl-7-fluoro-5-methyl-6-(thiophen-2-yl)-1,3-benzoxazole-4-carbonitrile | 194 mg, 96% | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2F)C=2SC=CC2)C)C#N | C16H11FN2OS
